US07253286B2
N1-Cyclopropyl-5-{[2-({[2-chloroethylamino]carbonyl}amino)-4-pyridyl]oxy}-1H-1-indolecarboxamide
N1-cyclopropyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide (400 mg), 2-chloroethyl isocyanate (150 mg) and tetrahydrofuran (5 ml) were stirred at 80° C. for 1.5 hours. The mixture was returned to room temperature, silica gel was added, and the solvent was distilled off under reduced pressure. The silica gel was charged into a dry column packed with silica gel, and purification was performed by column chromatography (hexane:ethyl acetate=1:1, followed by ethyl acetate) to obtain 280 mg of a colorless powder.

reactant | N1-cyclopropyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide | 400 mg | C1(CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C17H16N4O2
reactant | 2-chloroethyl isocyanate | 150 mg | ClCCN=C=O | C3H4ClNO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N1-Cyclopropyl-5-{[2-({[2-chloroethylamino]carbonyl}amino)-4-pyridyl]oxy}-1H-1-indolecarboxamide | 280 mg | C1(CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)NCCCl | C20H20ClN5O3
